US08871788B2
4-Chloro-2-(2-hydroxy-ethyl)-N-(tetrahydro-pyran-4-yl)-benzamide
4-Chloro-2-methyl-N-(tetrahydro-pyran-4-yl)-benzamide (2.09 g, 8.24 mmol) and diisopropylamine (0.15 equiv. 1.24 mmol, 125 mg.) were dissolved in anhydrous THF (100 mL). The solution was cooled to −78° C. When cooled at −78° C. it becomes a white suspension. To this solution was added sec-BuLi (1.4 M, in cyclohexane; 13 mL, 18.5 mmol, 2.25 equiv.), the reaction mixture turns into orange color, stirred for 5 min, and then submerged into ice-water bath (0° C.) for 15 min, the reaction becomes a clear orange solution, re-cooled to −78° C. Powdered formaldehyde (1.48 g, 49.44 mmol, 36 equiv.) was added. The dry ice-acetone bath was replaced with an ice-water and stirring was continued for 30 min. The red-brown color faded away to a light yellow color. The reaction was quenched with water, diluted with EtOAc. The two layers were separated and the aqueous was extracted with EtOAc (2×10 mL). The combined EtOAc solution was washed with brine (20 mL). Then, the EtOAc solution was dried over anhydrous granular K2CO3, filtered, and concentrated in vacuo. The crude product showed 2 peaks at 2.348 min, MS 284; 2.150 min, MS 254 at 2.808 (SM). The compound was purified on a 70-g silica gel column eluted with 1-5 min. 0-2.5% MeOH in DCM to obtain 1.25 g (54% yield) of the title compound as a white solid.

reactant | 4-Chloro-2-methyl-N-(tetrahydro-pyran-4-yl)-benzamide | 8.24 mmol, 2.09 g | ClC1=CC(=C(C(=O)NC2CCOCC2)C=C1)C | C13H16ClNO2
reactant | diisopropylamine | 1.24 mmol, 125 mg, 0.15 equiv | C(C)(C)NC(C)C | C6H15N
reactant | sec-BuLi | 18.5 mmol, 1.4 M, 13 mL, 2.25 equiv. | [Li]C(C)CC
reactant | formaldehyde | 49.44 mmol, 1.48 g, 36 equiv. | C=O | CH2O
reactant | dry ice acetone | C(=O)=O.CC(=O)C
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | 4-Chloro-2-(2-hydroxy-ethyl)-N-(tetrahydro-pyran-4-yl)-benzamide | 1.25 g, 54% yield | ClC1=CC(=C(C(=O)NC2CCOCC2)C=C1)CCO | C14H18ClNO3
